US04025505
The mixture of 6.0 g of N-(4-nitro-o-tolyl)-4methylmercaptophthalimide, 3.0 g of Raney nickel and 200 ml of ethyl acetate is hydrogenated at 3.1 atm. and room temperature until the hydrogen uptake ceases. It is diluted with dimethylformamide to solubilize any organic material, filtered and the filtrate evaporated. The residue is recrystallized from chloroform-diethyl ether to yield the N-(4-amino-o-tolyl)-4-methylmercaptophthalimide melting at 173°-177°. The starting material is prepared as follows: The mixture of 8.5 g of potassium methylsulfide, 21.2 g of diethyl 4-chlorophthalate and 100 ml of dimethylformamide is stirred at 100°-120° for one week. After cooling it is diluted with diethyl ether, the precipitate filtered off, the filtrate washed with 5% aqueous sodium hydroxide, water, dried and evaporated, to yield the diethyl 4-methylmercaptophthalate. The mixture of 18.2 g thereof and 100 ml of 30% aqueous ethanolic sodium hydroxide is refluxed for 21/2 hours and evaporated. The residue is acidified with concentrated hydrochloric acid and thoroughly extracted with diethyl ether. The extract is washed with water, dried, evaporated and the residue recrystallized from 30% aqueous methanol, to yield the 4-methylmercaptophthalic acid, m.p. 178°-181°. The mixture of 13.0 g thereof and 130 ml of acetic anhydride is refluxed for 3 hours and evaporated, to yield the 4-methylmercaptophthalic anhydride melting at 157°-160°. The mixture of 10.3 g thereof, 7.8 g of 4-nitro-o-toluidine and 100 ml of acetic acid is refluxed for 24 hours and evaporated. The residue is recrystallized from ethanol-ethyl acetate to yield the N-(4-nitro-o-tolyl)-4-methylmercaptophthalimide melting at 155°-157°.

reactant | potassium methylsulfide | 8.5 g | CSC.[K]
reactant | diethyl 4-chlorophthalate | 21.2 g | ClC=1C=C(C(C(=O)OCC)=CC1)C(=O)OCC | C12H13ClO4
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | diethyl 4-methylmercaptophthalate | CSC=1C=C(C(C(=O)OCC)=CC1)C(=O)OCC | C13H16O4S
